US07053089B2
5-bromo-N-[(1-{[(1R,2R)-2-phenylcyclopropyl]carbonyl}piperidin-4-yl)methyl]pyrimidin-2-amine
A mixture of (1-{[(1R,2R)-2-phenylcyclopropyl]carbonyl}piperidin-4-yl)methylamine trifluoroacetate salt (1.00 g, 2.69 mmol), 5-bromo-2-chloro-pyrimidine ([32779-36-5 ], 0.519 g, 2.69 mmol) and cesium carbonate (1.75 g, 5.37 mmol) in DMF (7 mL) was heated at 100° C. for 1.5 h. The reaction mixture was cooled to RT, diluted with ethyl acetate (200 mL), washed with water (5×20 mL), and brine (10 mL), then dried over Na2SO4, filtered and concentrated. The residue was chromatographed on silica gel 60, eluting with 10:1–20:89–70 CH2Cl2:2-propanol:hexane to give the title compound. (0.31 g, 28.1%). M.S. (M+1): 416.

reactant | (1-{[(1R,2R)-2-phenylcyclopropyl]carbonyl}piperidin-4-yl)methylamine trifluoroacetate salt | 2.69 mmol, 1.00 g | FC(C(=O)O)(F)F.C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)N1CCC(CC1)CN
reactant | 5-bromo-2-chloro-pyrimidine | 2.69 mmol, 0.519 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | cesium carbonate | 5.37 mmol, 1.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-bromo-N-[(1-{[(1R,2R)-2-phenylcyclopropyl]carbonyl}piperidin-4-yl)methyl]pyrimidin-2-amine | BrC=1C=NC(=NC1)NCC1CCN(CC1)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1 | C20H23BrN4O
